US08207164B2
c) [1-(3-Bromo-phenyl)-1-difluoromethyl-allyl]-carbamic acid tert-butyl ester
[1-(3-Bromo-phenyl)-2,2-difluoro-ethylidene]-carbamic acid tert-butyl ester (9.09 g, 27.2 mmol) was dissolved in toluene and cooled to −20° C. under N2. Using a syringe pump, vinylmagnesiumbromide (42.5 ml, 34.0 mmol) was added (1 eq. per hour). After 1.25 hrs no starting material was left and 218 ml half-saturated NH4Cl solution was added to the reaction. The product was extracted with TBME. The organic phases were washed with water and brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by automated column chromatography (cyclohexane/TBME) to yield the title compound as a yellowish oil. 1H-NMR (600 MHz, DMSO-d6): 7.81 (br, 1H, NH), 7.52 (m, 2H), 7.35 (m, 2H), 6.48 (t, 1H, CHF2), 5.45 (d, 1H), 5.15 (d, 1H), 1.32 (s, 9H); MS: 362 [(M+H)+].

reactant | [1-(3-Bromo-phenyl)-2,2-difluoro-ethylidene]-carbamic acid tert-butyl ester | 27.2 mmol, 9.09 g | C(C)(C)(C)OC(N=C(C(F)F)C1=CC(=CC=C1)Br)=O | C13H14BrF2NO2
reactant | vinylmagnesiumbromide | 34.0 mmol, 42.5 ml | C(=C)[Mg]Br
reactant | NH4Cl | 218 ml | [NH4+].[Cl-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | [1-(3-Bromo-phenyl)-1-difluoromethyl-allyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C=C)(C(F)F)C1=CC(=CC=C1)Br)=O | C15H18BrF2NO2
